US07858643B2
To a solution of 3-[(R)-1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-5-(1H-pyrazol-4-yl)-pyrazin-2-ylamine (295 mg, 0.80 mmol) in anhydrous DMF (4 mL) was added NaH (60% in mineral oil, 30.7 mg, 0.80 mmol). The mixture was stirred at ambient temperature under nitrogen for 0.5 h, and then 4-methanesulfonyloxy-piperidine-1-carboxylic acid tert-butyl ester (223.5 mg, 0.80 mmol) was introduced. The reaction mixture was heated to 90° C. oil bath for 0.5 h under nitrogen, and cooled to ambient temperature. Water was added slowly to the mixture, which was extracted with EtOAc, washed with brine, and dried over Na2SO4. The crude product was purified on a silica gel column to provide 4-(4-{5-amino-6-[(R)-1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyrazin-2-yl}-pyrazol-1-yl)-piperidine-1-carboxylic acid tert-butyl ester as a white solid (265 mg, 59% yield).

reactant | 3-[(R)-1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-5-(1H-pyrazol-4-yl)-pyrazin-2-ylamine | 0.80 mmol, 295 mg | ClC1=C(C(=CC=C1F)Cl)[C@@H](C)OC=1C(=NC=C(N1)C=1C=NNC1)N | C15H12Cl2FN5O
reactant | NaH | 0.80 mmol, 30.7 mg | [H-].[Na+]
reactant | 4-methanesulfonyloxy-piperidine-1-carboxylic acid tert-butyl ester | 0.80 mmol, 223.5 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OS(=O)(=O)C | C11H21NO5S
reactant | Water | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 4-(4-{5-amino-6-[(R)-1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyrazin-2-yl}-pyrazol-1-yl)-piperidine-1-carboxylic acid tert-butyl ester | 265 mg, 59% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=CC(=C1)C1=NC(=C(N=C1)N)O[C@H](C)C1=C(C(=CC=C1Cl)F)Cl | C25H29Cl2FN6O3
